US09403839B2
To a solution of 4-[4-hydroxy-1-(4-isopropoxy-3-methyl-benzoyl)-4-piperidyl]-1-(3-pyridyl)butane-1,3-dione (1 mmol) in dichloromethane (5 mL) was added PPTS (251 mg, 1.00 mmol). The mixture was heated in microwave at 120° C. for 45 min. Water was added. The aqueous layer was extracted with dichloromethane (2×). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated to dryness. The residue was purified by column chromatography (40-50% ethyl acetate-Hex) to provide 3-(4-isopropoxy-3-methyl-benzoyl)-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undec-9-en-8-one.

reactant | 4-[4-hydroxy-1-(4-isopropoxy-3-methyl-benzoyl)-4-piperidyl]-1-(3-pyridyl)butane-1,3-dione | 1 mmol | OC1(CCN(CC1)C(C1=CC(=C(C=C1)OC(C)C)C)=O)CC(CC(=O)C=1C=NC=CC1)=O | C25H30N2O5
reactant | PPTS | 1.00 mmol, 251 mg | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
reactant | Water | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-(4-isopropoxy-3-methyl-benzoyl)-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undec-9-en-8-one | C(C)(C)OC1=C(C=C(C(=O)N2CCC3(CC2)CC(C=C(O3)C=3C=NC=CC3)=O)C=C1)C | C25H28N2O4
